US07189851B2
Ethyl (9aS)-2-(4-fluorobenzyl)-5-oxo-4-[3-({[2-(2-thienyl)ethyl]amino}carbonyl)-5-(trifluoromethyl)phenyl]-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (0.409 g, 0.92 mmol, 1 equiv), ethyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate (0.204 g, 0.92 mmol, 1 equiv), 3-carboxy-5-trifluoromethylbenzaldehyde (0.201 g, 0.92 mmol, 1 equiv), and piperidine (0.045 mL, 0.46 mmol, 0.5 equiv) were combined in toluene (4.0 mL). After 2 h at 90° C., the reaction was cooled to ambient temp. CAN (1.01 g, 1.84 mmol, 2 equiv) and H2O (4.0 mL) were added. After 0.5 h the layers were separated. The aqueous portion was extracted with EtOAc (2×4 mL) and the combined organic portions were concentrated to a brown oil. The crude oil was then treated with 4 N HCl in dioxane (5.0 mL). After 1 h, the mixture was concentrated to a brown oil. A CH2Cl2 solution (4.0 mL) of this crude oil was treated with Et3N (0.64 mL, 4.6 mmol, 5 equiv). After 8 h, the mixture was concentrated to a brown foam. A solution of the crude foam (0.105 g, 0.19 mmol, 1 equiv) in CH2Cl2 (1.0 mL) was treated with 2-(2-thienyl)ethylamine (0.043 g, 0.39 mmol, 2 equiv), EDCI (0.056 g, 0.29 mmol, 1.5 equiv), and HOBt (0.039 g, 0.29 mmol, 1.5 equiv). After 12 h at ambient temperature, the reaction was diluted with CH2Cl2 (1.0 mL) and treated with saturated aqueous NaHCO3 (2 mL). The organic portion was the washed with 1N HCl (2 mL) followed by brine (2 mL). Concentration gave a brown oil that was chromatographed radially (SiO2, 1 mm plate, 50% hexanes-EtOAc) to X as a pale yellow foam (0.039 g, 31%): low resolution MS (ES+) m/e 652 (MH+); RP-HPLC (Dynamax C-18 25 cm×4.1 mm; 50–100% CH3CN in H2O with 0.1% TFA buffer; 30 minutes; 1 mL/min) tr=14.37 min, 98% purity.

reactant | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 0.92 mmol, 0.409 g, 1 equiv | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | ethyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate | 0.92 mmol, 0.204 g, 1 equiv | N\C(=C/C(=O)OCC)\CC1=CC=C(C=C1)F | C12H14FNO2
reactant | 3-carboxy-5-trifluoromethylbenzaldehyde | 0.92 mmol, 0.201 g, 1 equiv | C(=O)(O)C=1C=C(C=O)C=C(C1)C(F)(F)F | C9H5F3O3
reactant | piperidine | 0.46 mmol, 0.045 mL, 0.5 equiv | N1CCCCC1 | C5H11N
reactant | CAN | 1.84 mmol, 1.01 g, 2 equiv | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | Et3N | 4.6 mmol, 0.64 mL, 5 equiv | CCN(CC)CC | C6H15N
reactant | 2-(2-thienyl)ethylamine | 0.39 mmol, 0.043 g, 2 equiv | S1C(=CC=C1)CCN | C6H9NS
reactant | EDCI | 0.29 mmol, 0.056 g, 1.5 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.29 mmol, 0.039 g, 1.5 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 4.0 mL | O | H2O
product | Ethyl (9aS)-2-(4-fluorobenzyl)-5-oxo-4-[3-({[2-(2-thienyl)ethyl]amino}carbonyl)-5-(trifluoromethyl)phenyl]-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | FC1=CC=C(CC=2C(=C(C3=C([C@@H]4CCCN4C3=O)N2)C2=CC(=CC(=C2)C(F)(F)F)C(=O)NCCC=2SC=CC2)C(=O)OCC)C=C1 | C34H29F4N3O4S
